US05684004
(E and Z)-1-[(4-Hydroxy)phenyl]-1,2-diphenyl-2-chloro-ethylene
Combine (E and Z)-1-[(4-hydroxy)phenyl]-1,2-diphenyl-ethylene [Cacchi et al, Tet. Lets. 25, 3137-3140 (1984)] (0.90 g, 3.31 mmol) and N-chlorosuccinimide (0.486 g, 3.64 mmol) in chloroform (20 mL). Heat to reflux and allow to stir at reflux for 48 hours. Evaporate in vacuo. Chromatograph on silica gel eluting with 20% ethyl acetate/hexane to give the title compound as a solid: mp; 127°-129° C.

reactant | 1-[(4-hydroxy)phenyl]-1,2-diphenyl-ethylene | 3.31 mmol, 0.90 g | OC1=CC=C(C=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C20H16O
reactant | N-chlorosuccinimide | 3.64 mmol, 0.486 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[(4-Hydroxy)phenyl]-1,2-diphenyl-2-chloro-ethylene | OC1=CC=C(C=C1)C(=C(Cl)C1=CC=CC=C1)C1=CC=CC=C1 | C20H15ClO
